US04346088
(a) 2-Bromo-1-(4-chloro-3-sulfamoylphenyl)-ethanol
0.94 g of sodium cyanoborohydride are added to an ice-cold solution of 3.1 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 1 ml of aqueous methyl orange solution in 20 ml of tetrahydrofuran, with stirring, and the pH is then rapidly adjusted to 3-4 by the dropwise addition of a 1:1 mixture of glacial acetic acid and 2 N HCl (indicator red in color) and the pH is then kept at this value by the occasional dropwise addition of the acid mixture. After about 11/2 hours no further starting material can be detected in a thin layer chromatogram (Merck silica gel ready-for-use plates, ethyl acetate as the solvent). The reaction mixture is poured into 300 ml of water and the resulting mixture is saturated with sodium chloride and extracted several times with ethyl acetate. After the combined organic phases have been washed with water and dried over sodium sulfate, they are concentrated in a rotary evaporator. Colorless crystals with a melting point of 145° C. (with decomposition).

reactant | sodium cyanoborohydride | 0.94 g | C(#N)[BH3-].[Na+]
reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 3.1 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | methyl orange | 1 ml | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | HCl | 2 N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-(4-chloro-3-sulfamoylphenyl)-ethanol | BrCC(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H9BrClNO3S
